US06291452B1
To a solution of (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-5-methyl-9-(N,N-dimethylamino)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (285 mg) in tetrahydrofuran (4 ml) was added dropwise 3-tolyl isocyanate (100 mg) under stirring at room temperature. The mixture was stirred at room temperature for 2 hours. Removal of the solvent in vacuo afforded a residue, which was triturated in diisopropyl ether and collected by filtration to give a white powder. To a solution of the powder in ethyl acetate was added 4N-hydrogen chloride in ethyl acetate (0.25 ml) under cooling. The mixture was evaporated in vacuo to dryness. The residue was washed with diisopropyl ether and collected by filtration to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-methyl-9-(N,N-dimethylamino )-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea hydrochloride (250 mg,61.5%) as a crystalline powder.

reactant | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-5-methyl-9-(N,N-dimethylamino)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 285 mg | NC1C(N(C2=C(C(=N1)C)C=CC=C2N(C)C)CC(=O)N2CC1CCC(C2)CC1)=O | C22H31N5O2
reactant | 3-tolyl isocyanate | 100 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.25 ml | C(C)(=O)OCC | C4H8O2
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-5-methyl-9-(N,N-dimethylamino )-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea hydrochloride | 250 mg, 61.5% | Cl.C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)N(C)C)C)NC(=O)NC1=CC(=CC=C1)C)=O | InChI=1S/C30H38N6O3.ClH/c1-19-7-5-8-23(15-19)32-30(39)33-28-29(38)36(18-26(37)35-16-21-11-12-22(17-35)14-13-21)27-24(20(2)31-28)9-6-10-25(27)34(3)4;/h5-10,15,21-22,28H,11-14,16-18H2,1-4H3,(H2,32,33,39);1H
